US06329405B1
(40a) 2-{(4-Methoxyphenyl)-[1-(3,4-difluorophenyl)ethylamino]methyl}phenylamine
In a similar manner to that described in Example (1a), 2-amino-4′-methoxybenzophenone (2.12 g), 1-(3,4-difluorophenyl)-ethylamine hydrochloride (2.60 g), triethylamine (7.8 ml), titanium tetrachloride (1.1 ml), sodium cyanoborohydride (2.34 g) and acetic acid (0.8 ml) were reacted, to afford a mixture of diastereomers of the title compound (2.05 g) as a colorless oil.

reactant | 2-amino-4′-methoxybenzophenone | 2.12 g | NC1=C(C(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C14H13NO2
reactant | 1-(3,4-difluorophenyl)-ethylamine hydrochloride | 2.60 g | Cl.FC=1C=C(C=CC1F)C(C)N
reactant | triethylamine | 7.8 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 2.34 g | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 1.1 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
product | 2-{(4-Methoxyphenyl)-[1-(3,4-difluorophenyl)ethylamino]methyl}phenylamine | 2.05 g | COC1=CC=C(C=C1)C(C1=C(C=CC=C1)N)NC(C)C1=CC(=C(C=C1)F)F | C22H22F2N2O
